US05389687
Preparation of 2-Di-n-propylamino-8-bromo-1,2,3,4-tetrahydronaphthalene.
8-Bromo-2-tetralone (28.8 gm, 128 mMol) was reacted with dipropylamine (34.3 mL, 250 mMol) and sodium cyanoborohydride (6.3 gm, 100 mMol) as described in Example 3 to give the title compound as a light yellow oil. The hydrochloride salt was formed and crystallization (acetone) gave colorless crystals (m.p.=150.5°-152° C.).

reactant | 8-Bromo-2-tetralone | 128 mMol, 28.8 gm | BrC=1C=CC=C2CCC(CC12)=O | C10H9BrO
reactant | dipropylamine | 250 mMol, 34.3 mL | C(CC)NCCC | C6H15N
reactant | sodium cyanoborohydride | 100 mMol, 6.3 gm | C(#N)[BH3-].[Na+]
product | 2-Di-n-propylamino-8-bromo-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)Br)CCC | C16H24BrN
